* indentify non-viable inductive systems (2x2 case)

* (compile (concat "../../../w32/src/ngspice " buffer-file-name) t)
* (compile (concat "valgrind --track-origins=yes --leak-check=full --show-reachable=yes ../../../w32/src/ngspice " buffer-file-name) t)

.subckt ind2 a1 a2 b1 b2 L11=0 L22=0 L12=0
R1 a1 n1 1k
L1 n1 a2 {L11}
L2 n2 b2 {L22}
R2 n2 a2 1k
K12 L1 L2 {L12/sqrt(abs(L11*L22))}
.ends

v1 a 0  dc 1
R1 a 0  1k
R2 b 0  1k

Xgood1 a 0 b 0 ind2 L11=1u L22=4u L12=1.98u
Xbad2  a 0 b 0 ind2 L11=1u L22=4u L12=2.01u
Xgood3 a 0 b 0 ind2 L11=1u L22=4u L12=-1.98u
Xbad4  a 0 b 0 ind2 L11=1u L22=4u L12=-2.01u

Xbad5 a 0 b 0 ind2 L11=1u L22=-4u L12=1n
Xbad6 a 0 b 0 ind2 L11=-1u L22=4u L12=1n

.control
op
remcirc
quit 0
.endc

.end
